US08097759B2
N-{3,5-Bis[(1,1-dimethyl)ethyl]phenyl}-2-hydroxy-5-nitrobenzamide (Compound No. 175)
Using 5-nitrosalicylic acid and 3,5-bis[(1,1-dimethyl)ethyl]aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-nitrosalicylic acid | [N+](=O)([O-])C1=CC=C(C(C(=O)O)=C1)O | C7H5NO5
reactant | 3,5-bis[(1,1-dimethyl)ethyl]aniline | CC(C)(C)C=1C=C(N)C=C(C1)C(C)(C)C | C14H23N
product | N-{3,5-Bis[(1,1-dimethyl)ethyl]phenyl}-2-hydroxy-5-nitrobenzamide | Yield: 46.7% | CC(C)(C)C=1C=C(C=C(C1)C(C)(C)C)NC(C1=C(C=CC(=C1)[N+](=O)[O-])O)=O | C21H26N2O4
